US09403798B2
3-(1,3-Dioxoisoindolin-2-yl)cyclopenta-1-en-1-yl trifluoromethanesulfonate
To a dichloromethane solution (30 mL) of 2-(3-oxocyclopentyl)isoindoline-1,3-dione (1.08 g, 4.71 mmol), trifluoromethanesulfonic acid anhydride (1.16 mL, 7.06 mmol) and N,N-diisopropylethylamine (1.16 mL, 9.42 mmol) were added at 0° C. and the resultant mixture was stirred at 0° C. for 1 day. After completion of the reaction, the reaction solution was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1) to obtain the title compound (780 mg, yield 46%).

reactant | 2-(3-oxocyclopentyl)isoindoline-1,3-dione | 4.71 mmol, 1.08 g | O=C1CC(CC1)N1C(C2=CC=CC=C2C1=O)=O | C13H11NO3
reactant | trifluoromethanesulfonic acid anhydride | 7.06 mmol, 1.16 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N,N-diisopropylethylamine | 9.42 mmol, 1.16 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-(1,3-Dioxoisoindolin-2-yl)cyclopenta-1-en-1-yl trifluoromethanesulfonate | 780 mg, yield 46% | FC(S(=O)(=O)OC1=CC(CC1)N1C(C2=CC=CC=C2C1=O)=O)(F)F | C14H10F3NO5S
